US07615562B2
Step A: 5-Trimethylstannanyl-thiophene-2-sulfonic acid amide
To a degassed suspension of 5-bromo-thiophene-2-sulfonic acid amide (500 mg, 2.07 mmol) in 10 ml toluene were added bis(dibenzylideneacetone)palladium (47 mg, 0.083 mmol), triphenylphosphine (87 mg, 0.33 mmol) and hexamethyldistannane (812 mg, 2.48 mmol). The mixture was stirred at 120° C. for 2 hours. The reaction mixture was filtered through Celite, washed with water, dried and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc:2/1). Yield: 190 mg (28%).

reactant | 5-bromo-thiophene-2-sulfonic acid amide | 2.07 mmol, 500 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | triphenylphosphine | 0.33 mmol, 87 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexamethyldistannane | 2.48 mmol, 812 mg | C[Sn]([Sn](C)(C)C)(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 0.083 mmol, 47 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 5-Trimethylstannanyl-thiophene-2-sulfonic acid amide | C[Sn](C1=CC=C(S1)S(=O)(=O)N)(C)C | InChI=1S/C4H4NO2S2.3CH3.Sn/c5-9(6,7)4-2-1-3-8-4;;;;/h1-2H,(H2,5,6,7);3*1H3;
